US06888003B2
10.2 2,4-Dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline
1.5 g (4.2 mmol) of 2,4-dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)nitrobenzene were dissolved in a mixture of 50 ml of tetrahydrofuran and 50 ml of methanol and admixed with 4 g of Raney nickel. The mixture was stirred at room temperature under a gage pressure of 0.3 bar of hydrogen for 4 h and then filtered through kieselguhr. The filtrate was dried using magnesium sulfate and then evaporated to dryness. This gave 1.3 g of the aniline.

reactant | 2,4-dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)nitrobenzene | 4.2 mmol, 1.5 g | ClC1=C(C=C(C(=C1)Cl)C1=NN(C(=C1)OC(F)F)C)[N+](=O)[O-] | C11H7Cl2F2N3O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 4 g | [Ni] | Ni
product | 2,4-Dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline | ClC1=C(N)C=C(C(=C1)Cl)C1=NN(C(=C1)OC(F)F)C | C11H9Cl2F2N3O
